US05589494
1-[4-[3-[4-(6-Fluoro-1H-indazol-3-yl)-1-piperazinyl]propoxy]-3-methoxyphenyl]-ethanone
A stirred mixture of 6-fluoro-3-(1-piperazinyl)-1H-indazole (2.3 g, 100 mmol), K2CO3 (1.5 g), 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone (2.8 g, 11 mmol), several crystals of KI and dimethylformamide (60 ml) was heated at 90° C. for 16 hours. The reaction was poured into H2O, and the aqueous suspension was extracted with ethyl acetate. The ethyl acetate was washed (H2O), dried (MgSO4) and concentrated to afford 5.0 g of a yellow oil. The oil was chromatographed on a Waters Prep 500 utilizing silica gel columns and eluting with methylene chloride/methanol (7%). Concentration of the desired fractions yielded 2.0 g (46%) of an off-white solid. This sample was combined with 1.0 g of a previous sample, and this was recrystallized from toluene to afford 2.6 g of 1-[4-[3-[4-(6-fluoro-1H-indazol-1-yl)-1-piperazinyl]-propoxy]-3-methoxyphenyl]ethanone as a white solid, m.p.=135°-137° C.

reactant | 6-fluoro-3-(1-piperazinyl)-1H-indazole | 100 mmol, 2.3 g | FC1=CC=C2C(=NNC2=C1)N1CCNCC1 | C11H13FN4
reactant | K2CO3 | 1.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone | 11 mmol, 2.8 g | ClCCCOC1=C(C=C(C=C1)C(C)=O)OC | C12H15ClO3
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
product | 1-[4-[3-[4-(6-Fluoro-1H-indazol-3-yl)-1-piperazinyl]propoxy]-3-methoxyphenyl]-ethanone | 5.0 g | FC1=CC=C2C(=NNC2=C1)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C(C)=O)OC | C23H27FN4O3
